US04596819
(S)-N-[N-[1-[(Phenylmethoxy)carbonyl]-2-pyrrolidinyl]-L-Leucyl]glycine, methyl ester
To a 500 flask containing 7.33 g [S-(R*,R*)]-2-[[(1-carboxy-3-methyl butyl)amino]methyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester hydrochloride add 150 ml dimethylformamide and cool to -5° C. Add 2.57 g 1-hydroxybenzotriazole, 2.39 g glycine methyl ester hydrochloride, and 5.35 ml triethylamine. Add a solution of 3.98 g dicyclohexylcarbodiimide in 50 ml dimethylformamide over five minutes. Stir and allow to warm to 25° C. overnight. Filter and strip filtrate in vacuo to a paste. Take up into 100 ml ethyl acetate and filter. Wash filtrate once with 75 ml water, twice with 50 ml saturated sodium bicarbonate solution and once with 25 ml sodium chloride solution. Dry organic phase over anhydrous magnesium sulfate, filter and strip in vacuo to an oil. Chromatograph on 200 g silica gel, eluting with 5/95 methanol/chloroform, recovering an oil, 1.41 g, 18% yield. Rf 0.52 on Merck SG60 TLC plates, eluted with 10/90 methanol/chloroform.

reactant | 2-[[(1-carboxy-3-methyl butyl)amino]methyl]-1-pyrrolidinecarboxylic acid, phenylmethyl ester hydrochloride | Cl.C(=O)(O)C(CC(C)C)NCC1N(CCC1)C(=O)OCC1=CC=CC=C1
reactant | 1-hydroxybenzotriazole | 2.57 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | glycine methyl ester hydrochloride | 2.39 g | Cl.COC(CN)=O
reactant | dicyclohexylcarbodiimide | 3.98 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 5.35 ml | C(C)N(CC)CC | C6H15N
product | (S)-N-[N-[1-[(Phenylmethoxy)carbonyl]-2-pyrrolidinyl]-L-Leucyl]glycine, methyl ester | 18% yield | C1(=CC=CC=C1)COC(=O)N1C(CCC1)N[C@@H](CC(C)C)C(=O)NCC(=O)OC | C21H31N3O5
